US04367226
Ethyl 2-(N-β-D-glucopyranosyl)aminothiazole-4-carboxylate hydrobromide
Ethyl bromopyruvate (8.99 g., 0.047 mole) was added to a suspension of N-β-D-glucopyranosylthiourea (10 g., 0.042 mole) in 120 ml. of hot ethanol, and the reaction was completed by heating 30 minutes. During the heating, the mixture became a clear solution. The reaction solution was evaporated to dryness in vacuo. The residue was crystallized from ethanol and acetone, filtered, and dried at room temperature in vacuo, yielding 16.03 g. (91.9%); white powder; m.p. 162°-163°(dec.).

reactant | Ethyl bromopyruvate | 0.047 mole, 8.99 g | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | N-β-D-glucopyranosylthiourea | 0.042 mole, 10 g | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)NC(=S)N | C7H14N2O5S
solvent | ethanol | C(C)O | C2H6O
product | Ethyl 2-(N-β-D-glucopyranosyl)aminothiazole-4-carboxylate hydrobromide | Br.[C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)NC=1SC=C(N1)C(=O)OCC | InChI=1S/C12H18N2O7S.BrH/c1-2-20-11(19)5-4-22-12(13-5)14-10-9(18)8(17)7(16)6(3-15)21-10;/h4,6-10,15-18H,2-3H2,1H3,(H,13,14);1H/t6-,7-,8+,9-,10-;/m1./s1
